US05134123
A solution of 3.56 g (8.9 mmol) of N-[(R)-α-(3,3-dimethyl-2-oxobutyl)hydrocinnamoyl]-L-histidine methyl ester and 9.36 ml of 1N sodium hydroxide solution in 50 ml of methanol is stirred at room temperature for 15 hours and then evaporated under reduced pressure in the cold. The residue is dissolved in 70 ml of dioxan and 30 ml of water, a solution of 2.95 (13.5 mmol) of di-t-butyl dicarbonate is added dropwise at room temperature and the mixture is thereafter stirred at room temperature for 15 hours. For the working-up, the reaction solution is concentrated under reduced pressure to about 1/3 of its volume and then diluted with 200 ml of ethyl acetate. After adding 50 ml of ice-water the reaction mixture is adjusted to pH 2.5 and the aqueous phase is saturated with solid sodium chloride. The aqueous phase is extracted two times with ethyl acetate and the combined ethyl acetate phases are dried over sodium sulphate and evaporated. The crude product obtained is chromatographed on silica gel with a 95:5 mixture of methylene chloride and methanol which contains 0.1% acetic acid, whereby there are obtained 3.5 g of 1-(t-butoxycarbonyl)-N-[(R)-(3,3-dimethyl-2-oxobutyl)hydrocinnamoyl]-L-histidine as a colourless powder, MS: 486 (M+H)+.

reactant | N-[(R)-α-(3,3-dimethyl-2-oxobutyl)hydrocinnamoyl]-L-histidine methyl ester | 8.9 mmol, 3.56 g | COC([C@@H](NC([C@H](CC1=CC=CC=C1)CC(C(C)(C)C)=O)=O)CC1=CNC=N1)=O | C22H29N3O4
reactant | sodium hydroxide | 1N, 9.36 ml | [OH-].[Na+]
reactant | di-t-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 50 ml | CO | CH4O
solvent | water | 30 ml | O | H2O
product | 1-(t-butoxycarbonyl)-N-[(R)-(3,3-dimethyl-2-oxobutyl)hydrocinnamoyl]-L-histidine | 3.5 g | C(C)(C)(C)OC(=O)N1C=C(C[C@H](NC([C@H](CC2=CC=CC=C2)CC(C(C)(C)C)=O)=O)C(=O)O)N=C1 | C26H35N3O6
